US04100170
Preparation of β-(1-Adamantyl)-α-methylethylamine hydrochloride, X
β-(1-Adamantyl)-α-methylethylamine (13.3 gm.) was dissolved in 550 ml. anhydrous ether and acidified with HCl gas. The solid was filtered, dried under vacuum at 88°, dissolved in 150 ml. CHCl3, and 850 ml. petroleum ether added to give 15 gm. product, m.p. 295°-7°.

reactant | β-(1-Adamantyl)-α-methylethylamine | 13.3 gm | C12(CC3CC(CC(C1)C3)C2)CC(C)N | C13H23N
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | β-(1-Adamantyl)-α-methylethylamine hydrochloride | Cl.C12(CC3CC(CC(C1)C3)C2)CC(C)N | InChI=1S/C13H23N.ClH/c1-9(14)5-13-6-10-2-11(7-13)4-12(3-10)8-13;/h9-12H,2-8,14H2,1H3;1H
